data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][N+:21]1=CC=CC=C1.CN=C=[N:10]C>>[H:20][N+:10](=C=NC)C.C1=CC=[N:21]C=C1 10=20;20,21=21
[H:10][BH2-:11]C#N.CC1CC2C3(CCC[N+:21]4=[C:20]3CCC4)C(C1O)CC(=O)O2.CO.C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)[O-]>>[H:10][C:20]12CCC[N:21]1CCCC23C4CC(C(C3CC(=O)O4)O)C.[BH2:11]C#N.CO.C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21
C1=CC=C(C=C1)[N+:21]#[N:20].C1=CO[CH:10]=[CH:11]1>>C1=CC=C(C=C1)[N:21]=[N:20][CH:10]2[CH+:11]C=CO2 10,11=10,20;20,21=21
[H:20][CH2:21][S+](C)OCC.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CCO[S+](C)[CH2-:21] 10=20;20,21=21
CC[O-:10].C(CCBr)[CH2:20][Br:21]>>CC[O:10][CH2:20]CCCBr.[Br-:21] 10=20;20,21=21
[H:20][O+:21](CCO)[Si-](C)(C)(C)Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.C[Si-](C)(C)([O:21]CCO)Cl 10=20;20,21=21
CC(=O)C1=CC=C[CH:10]=[CH:11]1.[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>CC(=O)C1=CC=C[CH:10]([CH+:11]1)[Br:20].[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21
[Li:11][C:10]1=CC=CC=C1.C1=CC=C(C=C1)[C:20](=[O:21])CC#N>>C1=CC=C(C=C1)[C:20](CC#N)([C:10]2=CC=CC=C2)[O-:21].[Li+:11] 10,11=10,20;20,21=21
CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)[OH:10].CC(C)(C)OC(=O)NC[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.CC(C)NC(=O)NC(C)C.CC(C)(C)OC(=O)NCC(=O)[O-].CN(C)C1=CC=NC=C1>>CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)[OH+:10][C:20](CNC(=O)OC(C)(C)C)([N+]6=CC=C(C=C6)N(C)C)[O-:21].CC(C)NC(=O)NC(C)C.CC(C)(C)OC(=O)NCC(=O)[O-].CN(C)C1=CC=NC=C1 10=20;20,21=21
C1CC[NH:10]C(C1)C(=O)O.C(C[CH:20]=[O:21])C[N+](=O)[O-].CC(=O)O>>C1CC[NH+:10](C(C1)C(=O)O)[CH:20](CCC[N+](=O)[O-])[O-:21].CC(=O)O 10=20;20,21=21
[H:20][OH+:21]P(OCCC#N)(OC1CC(OC1C)N2C=C(C(=O)NC2=O)C)(OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C)I.C1=CC=[N:10]C=C1.[I-]>>[H:20][N+:10]1=CC=CC=C1.CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)OP([OH:21])(OCCC#N)(OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C)I.[I-] 10=20;20,21=21
[H:20][O+:21](CC)CC=CNC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]CC=CNC 10=20;20,21=21
C[N+]1(CC(=O)O[Mg:20]1)CC(=O)[O-:10].O>>C[N+]12CC(=O)O[Mg-:20]1[O:10]C(=O)C2.O 10=20,
CC=CC[CH2:20][O:21]P(=O)(Cl)Cl.[Cl-:10]>>CC=CC[CH2:20][Cl:10].[O-:21]P(=O)(Cl)Cl 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C#N)Br.[Br-:10]>>[H:20][Br:10].C1=CC2=C(C=C(C=C2)C#N)[C:21](=[CH:22]1)Br 10=20;20,21=21,22
CO[CH:10]=[NH:11]>>CO[CH+:10][NH-:11] 10,11=11
[CH:20](O)([OH:10])[I:21].[Cl-]>>[CH:20](=[OH+:10])O.[I-:21].[Cl-] 10=20;20,21=21
CC(=O)O[Si-:10](C)(C)(C)[OH+:11]C>>CC(=O)O[Si:10](C)(C)C.C[OH:11] 10,11=11
[B-]([O:10][C:20](C)(C)[OH+:21]C)(F)(F)F>>[B-]([O+:10]=[C:20](C)C)(F)(F)F.C[OH:21] 10=20;20,21=21
[H:20][O+:21]=C1CCC(O1)CC2=C(C=C(C=C2)C)OC.C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C.CC1=CC(=C(C=C1)CC2CCC(=[O:21])O2)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CCC[CH:20]([NH+:21]1CCCCC1)[OH:10]>>CCC[CH:20]=[OH+:10].C1CC[NH:21]CC1 10=20;20,21=21
CCCCCC1CC(C[CH:20](C1OC(=[O:10])C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)C3CCCCC3>>CCCCCC1CC(C[CH:20]2C1OC(=[O+:10]2)C)C3CCCCC3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)[N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)[O-:10]>>C1=C(O[C:21](=[CH:22]1)[N+](=O)[O-])[N+](=O)[O-].[H:20][O:10]S(=O)(=O)O 10=20;20,21=21,22
[H:20][NH+:21](C1=CC=C(C=C1)F)C(CCC(=O)C)(C2=CC=C(C=C2)S(=O)(=O)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CC(=O)CCC(C1=CC=C(C=C1)S(=O)(=O)C)([NH:21]C2=CC=C(C=C2)F)O 10=20;20,21=21
COC1=C(C=CC(=C1)[C:20]([OH2+:21])([OH:10])OC)[NH3+].CO.OS(=O)(=O)[O-]>>COC1=C(C=CC(=C1)[C:20](=[OH+:10])OC)[NH3+].[OH2:21].CO.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][C:21](C=CC)([C:22]1=[N+:23](N=C2N1C3C(CC4=C3C=CC=C4)OC2)C5=C(C(=C(C(=C5F)F)F)F)F)O.C1CCC2=[N:10]CCCN2CC1.[B-](F)(F)(F)F.C1=CC=C(C=C1)C=C(C(=O)C2=CC=CC=C2)C(=O)C3=CC=CC=C3.C1=CC=C(C=C1)C(=O)C(=CC2=CC=C(C=C2)Br)C(=O)C3=CC=CC=C3>>[H:20][N+:10]1=C2CCCCCN2CCC1.CC=C[C:21](=[C:22]1N2C3C(CC4=C3C=CC=C4)OCC2=N[N:23]1C5=C(C(=C(C(=C5F)F)F)F)F)O.[B-](F)(F)(F)F.C1=CC=C(C=C1)C=C(C(=O)C2=CC=CC=C2)C(=O)C3=CC=CC=C3.C1=CC=C(C=C1)C(=O)C(=CC2=CC=C(C=C2)Br)C(=O)C3=CC=CC=C3 10=20;22,23=23;20,21=21,22
[H:20][OH:21].CCC(C)(C(C)C(=O)C)[O-:10]>>[H:20][O:10]C(C)(CC)C(C)C(=O)C.[OH-:21] 10=20;20,21=21
C[P:20](=O)(C)CC[O-:10]>>C[P-:20]1(=O)(CC[O:10]1)C 10=20,
C[Si](C)(C)C[CH:11]=[CH2:10].[Cl:20][Cl:21]>>C[Si](C)(C)C[CH+:11][CH2:10][Cl:20].[Cl-:21] 10,11=10,20;20,21=21
[H:20][N:21]=[N+]=[N-].CO[C:11](=[N:10]N(C(=O)OC)[P+](C)(C)C)[O-:12]>>[H:20][N:10]([C:11](=[O:12])OC)N(C(=O)OC)[P+](C)(C)C.[N-:21]=[N+]=[N-] 10,11=10,20;20,21=21;12=11
C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1=C(C=C(C(=C1)C[O-:10])Cl)Br.C(Br)(Br)Br>>C1=CC=C(C=C1)[P:20](C2=CC=CC=C2)(C3=CC=CC=C3)([O:10]CC4=CC=C(C=C4Cl)Br)Br.C(Br)(Br)Br 10=20,
CO[C:20](=[OH+:21])OCC[NH2:10]>>CO[C:20]1([NH2+:10]CCO1)[OH:21] 10=20;20,21=21
CCCC(CC)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCC(CC)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
C[P:10](C)C.[I:20][I:21]>>C[P+:10](C)(C)[I:20].[I-:21] 10=20;20,21=21
